US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-ethyl-1-(2-methoxy-ethylcarbamoyl)-propyl]-amide
The title compound was synthesized in analogy to Example 1, using 2-(5-cyclopropyl-6-(cyclopropylmethoxy)picolinamido)-2-ethylbutanoic acid (Example 274 a) and 2-methoxyethanamine (CAN 109-85-3) as starting materials. MS (EI): m/e=404.4 [M+H]+.

reactant | 2-(5-cyclopropyl-6-(cyclopropylmethoxy)picolinamido)-2-ethylbutanoic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)NC(C(=O)O)(CC)CC | C19H26N2O4
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-ethyl-1-(2-methoxy-ethylcarbamoyl)-propyl]-amide | C(C)C(CC)(C(NCCOC)=O)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C22H33N3O4
